US07585886B2
A 10 ml THF solution of 500 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate was mixed with 0.34 ml of ethyl chloroformate and stirred at 50° C. A 0.24 ml portion of triethylamine and 20 ml of water were added thereto, and the solvent was evaporated. This was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate, and the solvent was evaporated. The thus obtained residue was treated with 4 M hydrogen chloride/ethyl acetate solution and recrystallized from ethyl acetate-hexane to obtain 312 mg of ethyl 3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate as colorless crystals.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate | 500 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)CC1CNCC1C1=CC=CC=C1 | C28H34N2O2
reactant | ethyl chloroformate | 0.34 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | 20 ml | O | H2O
product | ethyl 3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carboxylate | 312 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NCC1CN(CC1C1=CC=CC=C1)C(=O)OCC | C26H30N2O2
